US06890923B2
a) 6-Bromo-3-methyl-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Bromine (2.79 ml) in dry dichloromethane (25 ml) was added dropwise to a solution of 3-methyl-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (12.0 g, WO 98/54190) in dry dichloromethane (100 ml) and stirred at room temperature for 30 minutes. The solution was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with sodium metabisulfite solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the sub-title compound as a cream solid. (15.85 g)

reactant | Bromine | 2.79 ml | BrBr | Br2
reactant | 3-methyl-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 12.0 g | CN1C(N(C2=C(C1=O)C=CS2)CC(C)C)=O | C11H14N2O2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-Bromo-3-methyl-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | BrC1=CC2=C(N(C(N(C2=O)C)=O)CC(C)C)S1 | C11H13BrN2O2S
